US07435837B2
Treatment of (±)-[4-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.38 g, 3.35 mmol) with sodium azide (0.87 g, 13.38 mmol) generally according to the procedure described for Intermediate 98 afforded (±)-2-(azidomethyl)-4-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.083 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.561 g (57%) of (±)-1-[4-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 228-231° C.; Anal. calcd. for C16H16FNOHCl: C, 65.42; H, 5.83; N, 4.77. Found: C, 66.01; H, 5.88; N, 4.51.

reactant | (±)-[4-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 3.35 mmol, 1.38 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2C2=C(C=CC=C2)C)F | C23H21FO4S
reactant | sodium azide | 13.38 mmol, 0.87 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-4-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C(=CC=C2C2=C(C=CC=C2)C)F | C16H14FN3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.083 g | [Pd] | Pd
product | (±)-1-[4-fluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.561 g, 57% | FC1=CC=C(C2=C1CC(O2)CN)C2=C(C=CC=C2)C | C16H16FNO
